US06897231B2
A. (1S)-1-{N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]carbamoyl}ethyl acetate
To a solution of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.400 g, 1.25 mmol) in dichloromethane (50 mL), was added (S)-(−)-2-acetoxy propionic acid (0.128 mL, 1.38 mmol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) (0.287 g, 1.5 mmol). After overnight reaction at room temperature, 0.6 equivalent of carboxylic acid and EDCI were added. After 12 hours at room temperature, the reaction was complete. The reaction mixture was partitioned between dichloromethane and water. The organic phase was dried under vacuum and the title product was used in the subsequent step without further purification (0.460 g, 85% yield): ES-MS (m/z) 433 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.25 mmol, 0.400 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | (S)-(−)-2-acetoxy propionic acid | 1.38 mmol, 0.128 mL | C(C)(=O)O[C@H](C(=O)O)C | C5H8O4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 1.5 mmol, 0.287 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (1S)-1-{N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]carbamoyl}ethyl acetate | 85% yield | C(C)(=O)O[C@@H](C)C(NC1=CC(=CC=C1)C1=NN(C2=CC=CC=C12)C1OCC(CC1)C#N)=O | C24H24N4O4
